### ISSUE TITLE
Tree._sizeOf_inst needs realization

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#10573]
I guess these days every single declaration should be enabled for realization, because any tactic might want to realize aux decls:

```

inductive Tree (α : Type) where
  | leaf : α → Tree α
  | node : Array (Tree α) → Tree α

def Tree.map {α β} (f : α → β) : Tree α → Tree β
  | .leaf x => .leaf (f x)
  | .node ts => .node (ts.map (Tree.map f))

def Tree.map' {α β} [SizeOf α]: (t : Tree α) → (f : (x : α) → sizeOf x < sizeOf t → β) → Tree β
  | .leaf x, f => .leaf (f x (by simp))
  | .node ts, f => .node (ts.attach.map (fun ⟨t, ht⟩ =>
    Tree.map' t (fun x hx => f x (by have := Array.sizeOf_lt_of_mem ht; grind [node.sizeOf_spec]))))

/--
error: trying to realize `_private.Lean.Environment.0.Lean.Environment.RealizeConstKey` value but `enableRealizationsForConst` must be called for 'Tree._sizeOf_inst' first
-/
#guard_msgs in
theorem Tree.map_eq_map' {α β} [SizeOf α] (f : α → β) (t : Tree α) :
    Tree.map f t = Tree.map' t (fun x _ => f x) := by try?
```

Should we play whack-a-mole, or warn about it? Or should code handle it gracefully when realization isn't enabled yet? (It might run in some attribute handler…)

### Versions

Lean 4.25.0-nightly-2025-09-26

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by nomeata** [comment]
Also, the error message should be better :)

**Comment by ayhon** [comment]
I stumbled into this issue too while working with a similar definition. I managed to minimize it to the following before I realized the bug had already been opened.

```lean
inductive Tree where | nil 
example
: 0 <= (Tree.nil: Tree)._sizeOf_1
:= by
  simp [Tree._sizeOf_1]
  sorry
```

_I guess it matters not an MWE since the issue has already been identified... but oh well, I took the effort to, so might as well_

**Comment by nomeata** [comment]
Two mwe make two test cases, so the effort isn't wasted, and in any case appreciated, thanks!
